US04214093
A 330-mg portion of the p-chlorophenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate obtained above was dissolved in 10 ml of acetic acid and the resulting solution was slowly added dropwise at room temperature to 10 ml of acetic acid containing 2 g of zinc dust. After 30 minutes the precipitates were removed by filtration and the filtrate was concentrated under reduce pressure. The residue was dissolved in ethyl acetate and washed with a 5% aqueous sodium hydrogen carbonate solution. The ethyl acetate layer was concentrated under reduced pressure. The residue was dissolved in diethyl ether and dry gaseous hydrogen chloride was introduced thereinto to obtain 290 mg of p-chlorophenyl 7-amino-1,2,3,4-tetrahydro-1-naphthoate hydrochloride having a melting point of 175°-177° C.

reactant | p-chlorophenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)C(=O)OC1=CC=C(C=C1)Cl | C17H14ClNO4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | 2 g | C(C)(=O)O | C2H4O2
product | p-chlorophenyl 7-amino-1,2,3,4-tetrahydro-1-naphthoate hydrochloride | 290 mg | Cl.NC1=CC=C2CCCC(C2=C1)C(=O)OC1=CC=C(C=C1)Cl | InChI=1S/C17H16ClNO2.ClH/c18-12-5-8-14(9-6-12)21-17(20)15-3-1-2-11-4-7-13(19)10-16(11)15;/h4-10,15H,1-3,19H2;1H
